US04658055
To a solution of 2.7 g of aluminium chloride in 15 ml of nitromethane, 1.0 g of succinic anhydride was added, and then 1.7 g of 1-cyclooctenyl acetate was added dropwise under cooling. The resultant mixture was stirred at room temperature overnight and refluxed with stirring for four hours. The mixture was cooled, poured into 50 ml of 1N hydrochloric acid containing ice, and extracted four times with 30 ml of ethyl acetate. The organic layer was extracted twice with 30 ml of a saturated aqueous sodium bicarbonate solution. The aqueous layer was washed with ethyl acetate at pH 7. The aqueous layer was adjusted to pH 2 with 6N hydrochloric acid, and again extracted four times with 30 ml of ethyl acetate. The extract was dried and concentrated. The residue was washed with water to give 0.2 g of 7-(2,5-dioxocyclopentyl)heptanoic acid. This product had a melting point of 105° to 122° C.

reactant | aluminium chloride | 2.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | succinic anhydride | 1.0 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 1-cyclooctenyl acetate | 1.7 g | C(C)(=O)OC1=CCCCCCC1 | C10H16O2
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
reactant | nitromethane | 15 ml | [N+](=O)([O-])C | CH3NO2
product | 7-(2,5-dioxocyclopentyl)heptanoic acid | 0.2 g | O=C1C(C(CC1)=O)CCCCCCC(=O)O | C12H18O4
